US05686623
32 mg (0.12 mmol) of (1S,2R)-1-phenyl-1-benzoylamino-2-hydroxy-3-butene, in suspension in 0.64 cm3 of anhydrous toluene, are put, under an argon atmosphere, in a 10 cm3 single-necked, round-bottomed flask equipped with a magnetic stirrer system and a reflux condenser. 226 μl (173 mg, 2.4 mmol) of 2-methoxypropene, 6.0 mg (0.024 mmol) of pyridinium p-toluenesulphonate and 8 grains of 4 Å molecular sieve are then added. The resulting reaction mixture is allowed to react at a temperature in the region of 15° C. for 2.5 hours and is then heated at 100° C. for 2 hours. After cooling to a temperature in the region of 15° C., the reaction mixture is diluted in 40 cm3 of dichloromethane. The organic phase is washed once with 5 cm3 of a saturated sodium bicarbonate solution, 3 times with 5 cm3 of water and once with a saturated aqueous sodium chloride solution and is then dried over anhydrous sodium sulphate. After filtration and concentration to dryness under reduced pressure, the residue obtained is purified by chromatography on silica gel, eluting a first time with an ethyl ether/dichloromethane (2/98 by volume) mixture and then a second time with an ethyl acetate/hexane (10/90 by volume) mixture. There are thus obtained, with a yield of 38%, 14 mg (0.0456 mmol) of (4S,5R)-5-vinyl-3-benzoyl-2,2-dimethyl-4-phenyl-1,3-oxazolidine, the characteristics of which are the following:

reactant | (1S,2R)-1-phenyl-1-benzoylamino-2-hydroxy-3-butene | 0.12 mmol, 32 mg | C1(=CC=CC=C1)[C@@H]([C@@H](C=C)O)NC(C1=CC=CC=C1)=O | C17H17NO2
reactant | 2-methoxypropene | 2.4 mmol, 226 μl, 173 mg | COC(=C)C | C4H8O
reactant | pyridinium p-toluenesulphonate | 0.024 mmol, 6.0 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | toluene | 0.64 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 40 cm3 | ClCCl | CH2Cl2
product | (4S,5R)-5-vinyl-3-benzoyl-2,2-dimethyl-4-phenyl-1,3-oxazolidine | 0.0456 mmol, 14 mg, yield of 38% | C(=C)[C@@H]1[C@@H](N(C(O1)(C)C)C(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C20H21NO2
